US04168269
9,10-Dihydro-9-methyl-4-propyl-4H-thieno[3,4-b][1,5]benzodiazepine
A 5 g. portion of 4,9-dihydro-9-methyl-4-propionyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one is added to 200 ml. of tetrahydrofuran. To this is added 140 ml. of 1M borane, over a 15 minute period in an ice bath under nitrogen. The mixture is refluxed for 20 hours, then cooled in an ice bath and 40 ml. of 6N hydrochloric acid is added dropwise, with stirring. The tetrahydrofuran is distilled off. The reaction mixture is stirred with ice bath cooling and 31 g. of sodium hydroxide pellets are carefully added portionwise. The mixture is extracted twice with 250 ml. of benzene. Water is added to solubilize some salts. The mixture is extracted with 250 ml. of ether. The ether and benzene extracts are combined, dried over sodium sulfate, filtered and concentrated to an oil. This oil is treated with 75 ml. of ether:hexane (50:50), cooled and filtered. The filtrate is diluted with 50 ml. of hexane and cooled for a prolonged period. The solvent mixture is decanted from the insoluble material and concentrated to a solid residue. The residue is dissolved in 60 ml. of 10% methylene chloride in hexane and chromatographed on an alumina column. The column is eluted with 10% methylene chloride in hexane, discarding the first 500 ml. of eluant. Fractions 2 and 3 are collected (200 ml. each) and the eluate is changed to 20% methylene chloride in hexane. Fractions 2-7 (200 ml. each) are combined and concentrated giving the desired product as pale yellow crystals, mp. 90°-92° C.

reactant | 4,9-dihydro-9-methyl-4-propionyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CN1C(C=2C(N(C3=C1C=CC=C3)C(CC)=O)=CSC2)=O | C15H14N2O2S
reactant | borane | 1M | B | BH3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9,10-Dihydro-9-methyl-4-propyl-4H-thieno[3,4-b][1,5]benzodiazepine | CN1CC=2C(N(C3=C1C=CC=C3)CCC)=CSC2 | C15H18N2S
